US07728030B2
tert-Butyl[(1S)-2-(4-ethylphenyl)-1-methyl-2-oxoethyl]carbamate (7d)
To a stirred suspension of magnesium turnings (243 mg, 10 mmol) in dry THF (10 ml) was added a solution of 1-bromo-4-ethylbenzene (1.85 g, 10 mmol) in dry THF (10 ml), followed by a small crystal of iodine. The reaction mixture was heated with reflux for 4 h, then cooled to r.t. A solution of N2-(tert-butoxycarbonyl)-N-methoxy-N-methyl-L-alaninamide (464 mg, 2 mmol) in dry THF (15 ml) was added dropwise, and the stirring was continued for 5 h at r.t. Then the reaction mixture was quenched with sat. aqueous NH4Cl (25 ml) stirred for 30 min, and the layers were separated. The aqueous layer extracted with ethyl acetate (50 ml). The combined organic layers were dried with Na2SO4, and the solvent was removed under reduced pressure to give the subtitle compound as colourless oil, 718 mg, 70% purity (as determined by NMR). Used in the next step without further purification.

reactant | magnesium | 10 mmol, 243 mg | [Mg] | Mg
reactant | 1-bromo-4-ethylbenzene | 10 mmol, 1.85 g | BrC1=CC=C(C=C1)CC | C8H9Br
reactant | iodine | II | I2
reactant | N2-(tert-butoxycarbonyl)-N-methoxy-N-methyl-L-alaninamide | 2 mmol, 464 mg | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N(C)OC | C10H20N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | tert-Butyl[(1S)-2-(4-ethylphenyl)-1-methyl-2-oxoethyl]carbamate | C(C)(C)(C)OC(N[C@H](C(=O)C1=CC=C(C=C1)CC)C)=O | C16H23NO3
